US04003884
b. Z-Trp-Ser-OMe
6.4 ml of N-ethylmorpholine and at 0° C, a solution of 10.5 g of DCC in 50 ml of tetrahydrofurane were added to a solution of 16.9 g (50 mmols) of Z-Trp-OH, 7.7 g (50 mmols) of H-Ser-OMe . HCl and 6.65 g (50 mmols) of HOBt in 100 ml of absolute tetrahydrofurane. The mixture was stirred for one hour at 0° C and for 2 hours at room temperature, the deposit was suction-filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and successively extracted with saturated NaHCO3 -solution, KHSO4 -solution, saturated NaHCO3 -solution and water. The ethyl acetate phase was dried over Na2SO4 and concentrated. The remaining oil was dissolved in 120 ml of isopropanol. When standing in the refrigerator the substance was crystallized. Yield: 15.6 g (71%), melting point: 143° - 145° C. [α]D25 = -16.8° (c=1, dimethylacetamide)

reactant | N-ethylmorpholine | 6.4 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 10.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Trp-OH | 50 mmols, 16.9 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | H-Ser-OMe . HCl | 50 mmols, 7.7 g | COC(=O)[C@H](CO)N.Cl
reactant | HOBt | 50 mmols, 6.65 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | Z-Trp-Ser-OMe | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C23H25N3O6
